US06509328B1
3-[2-(4-Methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 2-(4-methyl-imidazol-1-yl)-thiazole-4-carboxylate [prepared from ethyl 2-amino-4-thiazolecarboxylate (CAS-No. [256420-32-3]) by the following synthetic sequence: 1.) NaH, 2-isothiocyanato-1,1-dimethoxy-propane, DMF, 23° C.; 2.) aq. H2SO4, reflux; 3.) EtOH, conc. H2SO4, 23° C.; 4.) 30% H2O2, HOAc, 23° C.] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a brown oil (8.73 g).

reactant | ethyl 2-(4-methyl-imidazol-1-yl)-thiazole-4-carboxylate | CC=1N=CN(C1)C=1SC=C(N1)C(=O)OCC | C10H11N3O2S
reactant | ethyl 2-amino-4-thiazolecarboxylate | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | NaH | [H-].[Na+]
reactant | 2-isothiocyanato-1,1-dimethoxy-propane | N(=C=S)C(C(OC)OC)C | C6H11NO2S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | H2O2 | OO | H2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | HOAc | CC(=O)O | C2H4O2
solvent | EtOH | CCO | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[2-(4-Methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionic Acid tert.-Butyl Ester | 8.73 g | C(C)(C)(C)OC(CC(=O)C=1N=C(SC1)N1C=NC(=C1)C)=O | C14H17N3O3S
